US05877202
8-(t-Butoxycarbonyl)amino-octanoic acid
Combine 8-amino-octanoic acid (5.9 g, 34 mmol), triethylamine (5.0 mL, 30 mmol), and di-t-butyl dicarbonate (7.5 g, 34 mmol) in tetrahydrofuran (100 mL). After 24 hours, partition the reaction mixture between ethyl acetate and 1M hydrochloric acid solution. Dry the organic layer ove MgSO4, filter and evaporate in vacuo to give the title compound.

reactant | 8-amino-octanoic acid | 34 mmol, 5.9 g | NCCCCCCCC(=O)O | C8H17NO2
reactant | triethylamine | 30 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 34 mmol, 7.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 8-(t-Butoxycarbonyl)amino-octanoic acid | C(C)(C)(C)OC(=O)NCCCCCCCC(=O)O | C13H25NO4
